US07534887B2
112a) Methyl (2S)-3-[(6-chloronaphthalen-2-yl)thio]-2-hydroxypropionate
Under argon atmosphere, a 3 M solution of ethylmagnesium bromide in diethyl ether was added dropwise to THF (25 mL) with ice cooling. To this solution, a solution of 6-chloronaphthalene-2-thiol (5.0 g) in THF (50 mL) was added dropwise at 0C, and the mixture was mixed at room temperature for 30 minutes. To this solution, a solution of methyl (2R)-oxirane-2-carboxylate (2.3 mL) in THF (15 mL) was added dropwise, and the reaction solution was mixed at room temperature for 3 hours. To the reaction solution, an aqueous ammonium chloride solution (50 mL) was added, and the mixture was extracted with ethyl acetate (100 mL). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was recrystallized from hexane/ethyl acetate (3:1) to give the title compound (5.9 g, 77%) as colorless needle-shaped crystals.

reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | 6-chloronaphthalene-2-thiol | 5.0 g | ClC=1C=C2C=CC(=CC2=CC1)S | C10H7ClS
reactant | methyl (2R)-oxirane-2-carboxylate | 2.3 mL | O1[C@H](C1)C(=O)OC | C4H6O3
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | Methyl (2S)-3-[(6-chloronaphthalen-2-yl)thio]-2-hydroxypropionate | 5.9 g, 77% | ClC=1C=C2C=CC(=CC2=CC1)SC[C@H](C(=O)OC)O | C14H13ClO3S
